US07550505B2
N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methyl-3-(naphthalen-1-ylsulfonyl)propanamide (PLM1)
N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methyl-3-(naphthalen-1-ylthio)propanamide (31 mg, 0.072 mmol) was dissolved in dichloromethane (0.2 mL) and cooled to −78° C. 30% hydrogen peroxide (16.7 μL, 0.58 mmol) was added followed by the slow addition of trifluoroacetic anhydride (62 μL, 0.43 mmol). The reaction was stirred at room temperature for 16 h. The reaction was diluted with dichloromethane. Cold water and brine were added and the reaction was stirred for 20 minutes. The organic layer was separated, dried over magnesium sulfate, filtered and evaporated. Purification by column chromatography (hexane:EtOAc 50:50) yielded 25 mg of desired product. Production of PLM1 was confirmed by 1-H NMR, 13-C NMR, and mass spectral analysis.

reactant | N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methyl-3-(naphthalen-1-ylthio)propanamide | 0.072 mmol, 31 mg | C(#N)C1=C(C=C(C=C1)NC(C(CSC1=CC=CC2=CC=CC=C12)(C)O)=O)C(F)(F)F | C22H17F3N2O2S
reactant | hydrogen peroxide | 0.58 mmol, 16.7 μL | OO | H2O2
reactant | trifluoroacetic anhydride | 0.43 mmol, 62 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | N-(4-Cyano-3-(trifluoromethyl)phenyl)-2-hydroxy-2-methyl-3-(naphthalen-1-ylsulfonyl)propanamide | 25 mg | C(#N)C1=C(C=C(C=C1)NC(C(CS(=O)(=O)C1=CC=CC2=CC=CC=C12)(C)O)=O)C(F)(F)F | C22H17F3N2O4S
